US08541455B2
To a solution of 200 mg (0.85 mmol) of methyl 2-acetyl-3-methyl-3-phenylbutanoate in 2 mL of EtOH/AcOH mixture (1:1) are added 249 mg (0.85 mmol) of N-ethyl-6-hydrazino-N-phenylpyridine-3-sulfonamide and the reaction mixture is then heated for 2 hours at 90° C. After concentrating under reduced pressure, the residue is taken up in 100 mL of DCM, washed with 2×30 mL of saturated NaHCO3 solution, dried over Na2SO4, filtered, concentrated under reduced pressure and then purified by chromatography on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of 0 to 20% EtOAc. After concentrating under reduced pressure, 312 mg of a yellow oil are obtained, and are solidified in 20 mL of pentane. The solid obtained is filtered off, and then dried under vacuum. 178 mg of N-ethyl-6-[3-methyl-4-(1-methyl-1-phenylethyl)-5-oxo-2,5-dihydro-1H-pyrazol-1-yl]-N-phenylpyridine-3-sulfonamide are obtained in the form of a white powder.

reactant | methyl 2-acetyl-3-methyl-3-phenylbutanoate | 0.85 mmol, 200 mg | C(C)(=O)C(C(=O)OC)C(C)(C1=CC=CC=C1)C | C14H18O3
reactant | N-ethyl-6-hydrazino-N-phenylpyridine-3-sulfonamide | 0.85 mmol, 249 mg | C(C)N(S(=O)(=O)C=1C=NC(=CC1)NN)C1=CC=CC=C1 | C13H16N4O2S
solvent | EtOH AcOH | 2 mL | CCO.CC(=O)O
solvent | pentane | 20 mL | CCCCC | C5H12
product | N-ethyl-6-[3-methyl-4-(1-methyl-1-phenylethyl)-5-oxo-2,5-dihydro-1H-pyrazol-1-yl]-N-phenylpyridine-3-sulfonamide | 178 mg, Yield=44% | C(C)N(S(=O)(=O)C=1C=NC(=CC1)N1NC(=C(C1=O)C(C)(C1=CC=CC=C1)C)C)C1=CC=CC=C1 | C26H28N4O3S
